Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, abdominal pain, hematemesis
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy

 
History of Present Illness:
Mr ___ is a ___ with osteoarthritis and idiopathic 
hypertrophic subaortic stenosis (mild, on ASA only, followed at 
___), recently s/p right rotator cuff surgery, who presents with 
nausea, vomiting, abdominal pain, and hematemesis.

He says that after his surgery he took oxycodone; he took a 
stool softener with it but it was not entirely effective and so 
he became somewhat constipated, passing harder stools. In that 
context he had several episodes where he passed a formed (hard) 
stool followed by a variable amount of bright red blood that 
filled the toilet, with bright red blood on toilet paper upon 
wiping. He was not terribly worried by this as he assumed it was 
hemorrhoidal.

He also admits to overuse of alcohol ("I work in ___ so I 
drink several beers a few nights a week, try to lay off the hard 
stuff") as well as nonsteroidals due to arthritis ("I'm a former 
marathon runner and my knees are shot"). He had been using more 
NSAIDs recently because of the surgery.

On ___ AM (the day of his presentation), he had onset of 
fairly severe sharp to pressurelike epigastric pain associated 
with nausea and vomiting. The vomiting episode occurred with 
four bouts of retching. He vomited bile and some coffee grounds 
at first, and then bright red blood thereafter. 

This brought him to the ED, where he had stable vital signs. He 
was given GI cocktail and a small amount of morphine with relief 
of his pain and nausea. His labs showed AST predominant 
transaminitis and a mild progressive anemia. Admission was 
requested for close monitoring.

ROS: Negative in 10 points except as noted above
 
Past Medical History:
osteoarthritis and idiopathic hypertrophic subaortic stenosis 
(mild, on ASA only, followed at BWH), recent right rotator cuff 
surgery, lung wedge resection for a nodule (benign pathology)
 
Social History:
___
Family History:
Sister with some recent GI difficulty, he thinks gallstones. No 
history of GI bleeding that he knows of. Hypertrophic 
cardiomyopathy runs in the family, and there has been SCD.
 
Physical Exam:
ADMISSION EXAM:
 Vitals  AVSS normotensive not tachy
 Gen NAD, quite pleasant
 Abd soft, NT, ND, bs+
 CV RRR, soft systolic murmur
 Lungs CTA ___
 Ext WWP, no edema
 Skin no rash, anicteric
 GU no foley
 Eyes EOMI
 HENT MMM, OP clear
 Neuro nonfocal, moves all extremities, steady gait
 Psych normal affect

DISCHARGE EXAM:
Vital Signs: 97.6 129/72 57 18 98%RA
Pain ___
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: soft, very mild epigastric ttp without rebound or guarding, 
+BS
NEURO: Non-focal
 
Pertinent Results:
Admission Labs:
___ 02:05PM BLOOD WBC-12.7*# RBC-4.45* Hgb-13.5* Hct-38.8* 
MCV-87 MCH-30.3 MCHC-34.8 RDW-12.3 RDWSD-39.1 Plt ___
___ 02:05PM BLOOD Neuts-85.5* Lymphs-8.8* Monos-5.0 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.85* AbsLymp-1.11* 
AbsMono-0.64 AbsEos-0.01* AbsBaso-0.02
___ 02:05PM BLOOD ___ PTT-27.5 ___
___ 02:05PM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-136 
K-3.9 Cl-98 HCO3-26 AnGap-16
___ 02:05PM BLOOD ALT-87* AST-143* AlkPhos-56 TotBili-0.7
___ 02:05PM BLOOD Lipase-24

___ 01:33PM BLOOD Iron-47
___ 01:33PM BLOOD calTIBC-298 Ferritn-198 TRF-229
___ 01:33PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 01:33PM BLOOD ___
___ 01:33PM BLOOD IgA-122
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG
___ 01:33PM BLOOD tTG-IgA-3
___ 01:33PM BLOOD HCV Ab-NEGATIVE

IMMUNOGLOBULIN G SUBCLASS 1   676                 
IMMUNOGLOBULIN G SUBCLASS 2   410               
IMMUNOGLOBULIN G SUBCLASS 3   39             
IMMUNOGLOBULIN G SUBCLASS 4   21              
IMMUNOGLOBULIN G, SERUM       1212          

Discharge Labs:
___ 06:06AM BLOOD WBC-4.6 RBC-4.17* Hgb-12.4* Hct-36.8* 
MCV-88 MCH-29.7 MCHC-33.7 RDW-12.4 RDWSD-39.8 Plt ___
___ 06:06AM BLOOD ___ PTT-29.9 ___
___ 06:06AM BLOOD Glucose-103* UreaN-8 Creat-0.8 Na-140 
K-3.9 Cl-105 HCO3-24 AnGap-15
___ 06:46AM BLOOD ALT-168* AST-142* AlkPhos-63 TotBili-0.9
___ 06:06AM BLOOD Calcium-9.3 Phos-2.9 Mg-1.9

RUQ U/S - IMPRESSION: 
Gallbladder sludge without evidence of acute cholecystitis or 
cholelithiasis.

EGD
A small area of erythema was seen at the GE junction, but no 
tear was identified.
Erythema and friability in the antrum compatible with mild 
gastritis (biopsy)
Otherwise normal EGD to third part of the duodenum

Biopsy
 - Antral mucosa with reactive (chemical-type) gastropathy with 
surface erosion and focally active
 inflammation.
 - Immunostain for Helicobacter species is in progress and the 
results will be reported in a revised
 
 
Brief Hospital Course:
___ y/o M with PMHx of OA and idiopathic hypertrophic subaortic 
stenosis, as well as recent right rotator cuff surgery, who 
presents with intermittent BRBPR (which he has attributed to 
hemorrhoidal bleeding), as well as 1 day of epigastric pain with 
associated hematemesis (in the setting of increased NSAID use 
following recent surgery).

# Acute blood loss anemia / Hemetemesis / Hematochezia: Pt with 
mixed picture, including e/o LGIB as well as UGIB. Agree that 
LGIB likely hemorrhoidal in nature, given report of more 
longstanding intermittent history of this as well as recent 
constipation. He had no further episodes in house. He is due for 
colonoscopy, and this was scheduled for him prior to discharge. 
Given downtrend in Hct as well as transaminitis, EGD was 
performed to evaluate for possible variceal source of bleeding. 
EGD was largely unremarkable. Ultimately, abdominal pain and 
hematemesis were felt to be related to either viral 
gastroenteritis with small MW tear versus NSAID induced 
gastropathy. Pt was started on PPI BID. Abdominal pain was 
resolved by the time of discharge. Of note, EGD biopsies were 
still pending at the time of discharge and will need to be 
followed up.

# Transaminitis: Unclear etiology. RUQ U/S unrevealing. 
Hepatitis serologies, IgG, ___, iron studies,TTG WNL. 
Potentially could be related to NSAID use. Pt will need to 
follow up with GI as an outpatient.

# Osteoarthritis: Avoiding NSAIDs given above. Advised to use 
Tylenol PRN for pain.

# IHSS: No acute issues.

TRANSITIONAL ISSUES:
- f/u EGD biopsies
- trend transaminases, f/u with GI
- needs colonoscopy
- Of note, pt reported some mild lightheadedness with standing. 
Orthostatics were initially borderline positive. Improved with 
IVF's. This should be followed up at PCP visit to ensure it has 
completely resolved.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ibuprofen 400 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
You should restart this medication when told it is ok by your 
surgeons. 
2. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. Acetaminophen 650 mg PO/PR Q4H:PRN Pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematemesis
Hematochezia
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital after you vomited blood at home. 
Your blood counts were trended and have remained stable overall. 
You had an endoscopy performed, which did not show any 
concerning findings. Your abdominal pain, nausea, and vomiting 
were likely related to medications (NSAIDs) vs. viral stomach 
bug. You are now being discharged home.

Of note, while you were here, your liver enzymes were noted to 
be elevated. You also reported intermittent blood in your 
stools. It is very important to follow up with the stomach 
doctors as ___ to have a colonoscopy as well as an 
evaluation of your liver.
 
Followup Instructions:
___